US05703106
A solution of N-butanesulfonyl-N-trimethylsilylamide (prepared according to the procedure described in Example 8) (1.72 g, 8.28 mmol), t-butoxycarbonylvaline fluoride (1.01 g, 4.6 mmol), and dimethylaminopyridine (220 mg, 1.84 mmol) in tetrahydrofuran (25 ml) is stirred at room temperature for 1 hour. The mixture is diluted with 10% citric acid and extracted with ethyl acetate. The organic layer is washed with water and brine, dried over magnesium sulfate, and concentrated in vacuo. The crude material is chromatographed on silica gel with ethyl acetate/hexane (3:1) to give N-butanesulfonyl-(t-butoxycarbonyl)valineamide.

reactant | N-butanesulfonyl-N-trimethylsilylamide | C(CCC)S(=O)(=O)[N-][Si](C)(C)C
reactant | t-butoxycarbonylvaline fluoride | 4.6 mmol, 1.01 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)F | C10H18FNO3
reactant | dimethylaminopyridine | 1.84 mmol, 220 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | N-butanesulfonyl-(t-butoxycarbonyl)valineamide | C(CCC)S(=O)(=O)NC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C14H28N2O5S
